US08633173B2
169 b) A suspension of N-(3-bromo-phenyl)-N-methyl-methanesulfonamide (1.0 g, 3.8 mmol) and copper cyanide (0.78 g, 8.7 mmol) in N,N-dimethylformamide (5 mL) was heated at 150° C. for 18 hours. The mixture was cooled to room temperature. A solution of potassium cyanide (5 g) and water (50 mL) was added to the vigorously stirred dark mixture and was stirred for 1 hour. The mixture was extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with water (2×30 mL) then saturated aqueous sodium chloride (30 mL), dried over magnesium sulfate and filtered. The filtrate was evaporated to a yellow oil (1.0 g). The residue was purified via flash chromatography (silica gel column and 5%→50% ethyl acetate:hexane). N-(3-Cyano-phenyl)-N-methyl-methanesulfonamide was isolated as a tan solid (0.184 g, 23%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.69-7.64 (m, 2H), 7.58 (d, J=7.7 Hz, 1H), 7.54-7.49 (m, 1H), 3.36 (s, 3H), 2.88 (s, 3H). MS=211 (MH)+.

reactant | N-(3-bromo-phenyl)-N-methyl-methanesulfonamide | 3.8 mmol, 1.0 g | BrC=1C=C(C=CC1)N(S(=O)(=O)C)C | C8H10BrNO2S
reactant | copper cyanide | 8.7 mmol, 0.78 g | [Cu](C#N)C#N
reactant | potassium cyanide | 5 g | [C-]#N.[K+]
reactant | water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(3-Cyano-phenyl)-N-methyl-methanesulfonamide | C(#N)C=1C=C(C=CC1)N(S(=O)(=O)C)C | C9H10N2O2S
